US05891889
Step B: Preparation of 1-(4-cyanobenzyl)-5-chloromethyl-2-methylimidazole hydrochloride salt
A mixture of 1-(4-cyanobenzyl)-5-hydroxymethyl-2-methylimidazole (3.45 g, 15.2 mmol) and thionyl chloride (30 mL, 411 mmol) was stirred at room temp. overnight under a calcium chloride drying tube. The resultant mixture was concentrated under vacuum, and residual thionyl chloride was removed by co-evaporation with toluene. The residue was triturated with anhydrous diethyl ether, filtered, washed with ether to provide the title compound as white solid.

reactant | 1-(4-cyanobenzyl)-5-hydroxymethyl-2-methylimidazole | 15.2 mmol, 3.45 g | C(#N)C1=CC=C(CN2C(=NC=C2CO)C)C=C1 | C13H13N3O
reactant | thionyl chloride | 411 mmol, 30 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-(4-cyanobenzyl)-5-chloromethyl-2-methylimidazole hydrochloride salt | Cl.C(#N)C1=CC=C(CN2C(=NC=C2CCl)C)C=C1 | InChI=1S/C13H12ClN3.ClH/c1-10-16-8-13(6-14)17(10)9-12-4-2-11(7-15)3-5-12;/h2-5,8H,6,9H2,1H3;1H
